US04336268
Preparation of rac. N-allyl-1-(m-methoxyphenyl)-N-methyl-2-cyclohexene-1-ethylamine
4.9 g of 1-(m-methoxyphenyl)-N-methyl-2-cyclohexene-1-ethylamine are dissolved in 50 ml of acetone. Thereupon, 3.5 g of potassium carbonate are added, 1.8 ml of allyl bromide are slowly added dropwise while stirring, and the mixture is stirred overnight. Subsequently, the precipitate is removed by filtration, and the filtrate is evaporated, and rac. N-allyl-1-(m-methoxyphenyl)-N-methyl-2-cyclohexene-1-ethylamine remains as the residue. The hydrochloride of this compound melts at 114°-116° C. (after recrystallization from ethyl acetate/diisopropyl ether).

reactant | 1-(m-methoxyphenyl)-N-methyl-2-cyclohexene-1-ethylamine | 4.9 g | COC=1C=C(C=CC1)C1(C=CCCC1)CCNC | C16H23NO
reactant | potassium carbonate | 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 1.8 ml | C(C=C)Br | C3H5Br
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | rac. N-allyl-1-(m-methoxyphenyl)-N-methyl-2-cyclohexene-1-ethylamine | C(C=C)N(CCC1(C=CCCC1)C1=CC(=CC=C1)OC)C | C19H27NO
